US07807720B2
2-(4-Fluoro-3-methyl-benzylidene)-hexanoic acid (A)
A mixture of 2-butyl-malonic acid (2.319 g, 14.482 mmol), 4-fluoro-3-methylbenzaldehyde (1.000 g, 7.241 mmol), and piperidine (1.232 g, 14.482 mmol) in 10 mL of pyridine was heated to 100° C. and stirred at this temperature for 16 h. After cooling to room temperature, the reaction mixture was poured into 25 mL of concentrated HCl containing 50 g of ice, and then extracted with ethyl acetate. The organic extracts were combined and dried over anhydrous Na2SO4, concentrated under reduced pressure, the product isolated by Flash chromatography (silica gel) eluting with 0-30% ethyl acetate/hexanes to give the title compound as yellow liquid (1.370 g, 80% yield). LC-MS: tR=9.5 min; m/z 237 (M+H)+.

reactant | 2-butyl-malonic acid | 14.482 mmol, 2.319 g | C(CCC)C(C(=O)O)C(=O)O | C7H12O4
reactant | 4-fluoro-3-methylbenzaldehyde | 7.241 mmol, 1.000 g | FC1=C(C=C(C=O)C=C1)C | C8H7FO
reactant | piperidine | 14.482 mmol, 1.232 g | N1CCCCC1 | C5H11N
reactant | HCl | 25 mL, 50 g | Cl | ClH
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2-(4-Fluoro-3-methyl-benzylidene)-hexanoic acid | 1.370 g, 80% yield | FC1=C(C=C(C=C(C(=O)O)CCCC)C=C1)C | C14H17FO2
